US07696223B2
b) 2,3-Dichloro-7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 111(a) from 2,3,7-trichloro-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, Zn(CN)2, Zn dust, Pd2(dba)3, and dppf in DMA (N,N-dimethylacetamide). The title compound, ESI MS (m/z): 376 (M+H)+.

reactant | 2,3,7-trichloro-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C(=C2Cl)Cl)C2=CC=CC=C2)O | C16H11Cl3N2O3
reactant | DMA | CN(C(C)=O)C | C4H9NO
catalyst | Zn(CN)2 | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | [Zn] | Zn
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2,3-Dichloro-7-cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Cl)Cl)C2=CC=CC=C2)O | C17H11Cl2N3O3
